US05407599
3.9 g of NaH (60% in oil) and 20 g of 6-cyclopropyl-hexanol were added to a solution of 8.5 g of difluoro-phenol in 100 ml of DMF. After a reaction time of 24 hours at room temperature, the solution was poured onto ice and extracted with CH2Cl2. After drying (Na2SO4) and removal of the solvent by distillation, 16.5 g of 6-cyclopropylhexyloxy-2,3-difluorobenzene were obtained as a colorless oil.

reactant | NaH | 3.9 g | [H-].[Na+]
reactant | 6-cyclopropyl-hexanol | 20 g | C1(CC1)CCCCCCO | C9H18O
reactant | difluoro-phenol | 8.5 g | FC=1C(=C(C=CC1)O)F | C6H4F2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 6-cyclopropylhexyloxy-2,3-difluorobenzene | 16.5 g | C1(CC1)CCCCCCOC1=C(C(=CC=C1)F)F | C15H20F2O
